US06787543B2
A mixture of 3-benzhydryl-1-(2-methoxybenzyl)piperazine dihydrochloride (44.5 mg), bromoacetamide (20.7 mg) and potassium carbonate (41.5 mg) in N,N-dimethylformamide (5 ml) was stirred at room temperature for 18 hours. The mixture was partitioned between ethyl acetate and 2N sodium hydroxide. The organic layer was separated, washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol (70:1). The fractions containing the objective compound were collected, evaporated under reduced pressure and treated with 4N hydrogen chloride in ethyl acetate solution to give 2-benzhydryl-1-carbamoylmethyl-4-(2-methoxybenzyl) piperazine dihydrochloride (21.6 mg) as a colorless powder.

reactant | 3-benzhydryl-1-(2-methoxybenzyl)piperazine dihydrochloride | 44.5 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CCN1)CC1=C(C=CC=C1)OC
reactant | bromoacetamide | 20.7 mg | BrCC(=O)N | C2H4BrNO
reactant | potassium carbonate | 41.5 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-benzhydryl-1-carbamoylmethyl-4-(2-methoxybenzyl) piperazine dihydrochloride | 21.6 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)C1N(CCN(C1)CC1=C(C=CC=C1)OC)CC(N)=O | InChI=1S/C27H31N3O2.2ClH/c1-32-25-15-9-8-14-23(25)18-29-16-17-30(20-26(28)31)24(19-29)27(21-10-4-2-5-11-21)22-12-6-3-7-13-22;;/h2-15,24,27H,16-20H2,1H3,(H2,28,31);2*1H
